*SRC=BZX84C22;DI_BZX84C22;Diodes;Zener 10V-50V; 22.0V  0.350W   Diodes Inc. 
*SYM=HZEN
.SUBCKT DI_BZX84C22  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 19.6
.MODEL DF D ( IS=6.55p RS=29.8 N=1.10
+ CJO=30.1p VJ=1.00 M=0.330 TT=50.1n )
.MODEL DR D ( IS=1.31f RS=39.5 N=3.00 )
.ENDS