* GENERIC FUNCTIONAL EQUIVALENT =  1N5240
* TYPE: DIODE
* SUBTYPE: VOLTAGE REG GP
* THIS IS A TEMPERATURE TRACKING MODEL WHICH WAS CONSTRUCTED
* FROM PRODUCT SPECIFICATION LIMITS AND PREVIOUSLY EXTRACTED MODELS.
* THE MODEL IS INTENDED FOR USE FROM -55 C TO 125 C.  NO RADIATION EFFECTS
* ARE INCLUDED.  SIMULATIONS USING THIS MODEL REPRESENT THE RESPONSES OF
* NOMINAL DEVICES AND SIMULATIONS ARE ACCURATE WITHIN THE LIMITS OF THE
* PRODUCT SPECIFICATION.
***CAUTION:  THE SIMULATED TRR FOR THIS FAMILY OF DEVICES ARE OFTEN OFF BY
*            A FACTOR OF 2.  THIS COULD POTENTIALLY LEAD TO ERRORS IN CIRCUIT.
*            SIMULATIONS IF USED IN HIGH SPEED SWITCHING APPLICATIONS.
*
.SUBCKT D1N5240     1 2
D1 1 2 DFOR
D2 2 3 DBLOCK
D3 2 1 DLEAK
IC 1 3         0.48
RC 3 1           20      TC =    6.58E-04   ,  -5.73E-08
*
.MODEL DBLOCK D(
+         IS = 1E-12
+         RS = 0
+          N = .6
+         TT = 0
+        CJO = 0
+         VJ = 1
+          M = .5
+         EG = .1
+        XTI = -3.86
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 9.9999E+13
+        IBV = .001
+ )
*
.MODEL DLEAK D(
+         IS = 2.000E-12
+         RS = 0
+          N = 34
+         TT = 0
+        CJO = 0
+         VJ = 1
+          M = .5
+         EG = 5.04
+        XTI = 314
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 9.9999E+13
+        IBV = .001
+ )
*
.MODEL DFOR D(
+         IS = 1E-14
+         RS = .5
+          N = 1
+         TT = 2E-7
+        CJO = 2.5E-10
+         VJ = .6
+          M = .34
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 9.9999E+13
+        IBV = .001
+ )
.ENDS
