*SRC=BZT52C24;DI_BZT52C24;Diodes;Zener 10V-50V; 24.0V  0.500W   Diodes Inc.
-
*SYM=HZEN
.SUBCKT DI_BZT52C24  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 21.5
.MODEL DF D ( IS=8.58p RS=30.5 N=1.10
+ CJO=21.4p VJ=1.00 M=0.330 TT=50.1n )
.MODEL DR D ( IS=1.72f RS=54.5 N=3.00).ENDS
