*SRC=BZX84C16;DI_BZX84C16;Diodes;Zener 10V-50V; 16.0V  0.350W   Diodes Inc. 
*SYM=HZEN
.SUBCKT DI_BZX84C16  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 13.7
.MODEL DF D ( IS=9.01p RS=30.7 N=1.10
+ CJO=35.8p VJ=1.00 M=0.330 TT=50.1n )
.MODEL DR D ( IS=1.80f RS=24.5 N=3.00 )
.ENDS