*SRC=BZX84C24;DI_BZX84C24;Diodes;Zener 10V-50V; 24.0V  0.350W   Diodes Inc. 
*SYM=HZEN
.SUBCKT DI_BZX84C24  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 21.5
.MODEL DF D ( IS=6.01p RS=29.5 N=1.10
+ CJO=28.9p VJ=1.00 M=0.330 TT=50.1n )
.MODEL DR D ( IS=1.20f RS=54.5 N=3.00 )
.ENDS