*SRC=BZX84C27;DI_BZX84C27;Diodes;Zener 10V-50V; 27.0V  0.350W   Diodes Inc. 
*SYM=HZEN
.SUBCKT DI_BZX84C27  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 24.4
.MODEL DF D ( IS=5.34p RS=29.2 N=1.10
+ CJO=27.3p VJ=1.00 M=0.330 TT=50.1n )
.MODEL DR D ( IS=1.07f RS=64.5 N=3.00 )
.ENDS