*SRC=BZX84C2V4;DI_BZX84C2V4;Diodes;Zener <=10V; 2.40V  0.350W   Diodes Inc. 
*SYM=HZEN
.SUBCKT DI_BZX84C2V4  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 0
.MODEL DF D ( IS=60.1p RS=36.1 N=1.10
+ CJO=205p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=12.0f RS=84.5 N=3.00 )
.ENDS