*$
*LM337-N_TRANS
*****************************************************************************
* (C) Copyright 2015 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM337-N
* Date: 31MAR2016 
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide:  
* Datasheet: SNVS778E –MAY 1999–REVISED JANUARY 2016
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
******************************************************************************
*
*Model Usage Notes:
*
*1.The following features have been modeled
*   a. Startup
*   b. PSRR.
*   C. Current limit response.
*   d. Dropout v/s Iout variation.
*   e. Transient responses. 
*2. Temperature effects are not been modeled.
*   
*****************************************************************************
.SUBCKT LM337_N_TRANS IN ADJ OUT
C_C5         0 N315027  1n  
X_F1    OUT VZZ N315027 N310601 LM337_N_F1 
C_U1_C2         0 U1_ERROR_AMP_OUT  1n  
E_U1_ABM4         U1_N09035 0 VALUE { V(U1_REF)  
+ * (V(OUT) + 1e-6)  
+ / ((V(OUT)-V(ADJ)) + 1e-6)  }
C_U1_C1         0 U1_REF  {1e-6*SQRT(TTRN)}  
R_U1_R1         0 U1_REF  1G  
V_U1_V5         U1_N11113 0 1
X_U1_U2         U1_N12560 IN U1_N48025 VEN COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
V_U1_V3         U1_N48025 0 {UHYS}
V_U1_V4         U1_N12560 0 {UVLO}
R_U1_R5         U1_N09745 N222524  10 TC=0,0 
R_U1_R3         U1_N08164 U1_REF  {3.333e5*SQRT(TTRN)} TC=0,0 
C_U1_C3         0 N222524  1n  
R_U1_R2         0 U1_ERROR_AMP_OUT  1G  
E_U1_E1         U1_VDROP 0 TABLE { V(ILOAD, 0) } 
+ ( (-1.5, 2.4) (-1, 2.2) (-0.5, 1.9) (-0.2, 1.7) (-0.02, 1.55) )
E_U1_ABM6         U1_N08164 0 VALUE { IF(V(VEN)> 0.6 & V(U1_N11113) > 0.6, 
+ {VREF}, 0)    }
E_U1_ABM5         U1_N09745 0 VALUE { MAX(V(U1_ERROR_AMP_OUT),  
+ MIN(V(IN) + V(U1_VDROP), 0))   }
R_U1_R4         U1_N09035 U1_ERROR_AMP_OUT  10 TC=0,0 
R_R5         VZZ N334642  {ROUT}  
X_H1    N334642 N315027 0 ILOAD LM337_N_H1 
R_R6         VYY N315027  10 TC=0,0 
R_R3         N310601 IN  3.5  
R_R2         N222524 VXX  {PSRR*RINP}  
R_R1         VXX N310601  {RINP}  
C_C2         VXX N222524  {1/(6.28*PSRR*RINP*ZERO)}  
C_C1         VXX N310601  {1/(6.28*RINP*POLE)}  
E_ABM1         VYY 0 VALUE { {MAX(V(VXX), (V(Vzz)+(ILIM*ROUT)))}    }
E_ABM2         N350468 0 VALUE { (V(Vzz)+(ILIM*ROUT))    }
.PARAM  psrr=0.08e-2 uvlo=-1.9 venb=-0.9 ilim=-2.2 pole=300 rinp=1e7 zero=1e5
+  rout=10m ttrn=100n ehys=0.4 vref=-1.25 uhys=0 drop=-250m
.ENDS LM337_N_TRANS
.subckt LM337_N_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends LM337_N_F1
*$
.subckt LM337_N_H1 1 2 3 4  
H_H1         3 4 VH_H1 1
VH_H1         1 2 0V
.ends LM337_N_H1
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$

